US07968563B2
Triethylamine (0.747 g, 1.03 mL, 7.38 mmol) and N,O-dimethylhydroxylamine hydrochloride (0.480 g, 4.92 mmol) were added to a stirring suspension of 2-chloromethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.750 g, 2.46 mmol) in DMF (5 mL). The resulting suspension was heated to 50° C. and stirred for 17 hours. The reaction mixture was cooled to room temperature and poured into water (100 mL). A solid was removed by filtration and discarded. The filtrate was extracted with ethyl acetate (3×100 mL). The combined organic fractions were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography using a HORIZON HPFC system (silica cartridge, eluting with 5-20% methanol in dichloromethane). The resulting oil was crystallized from dichloromethane and isolated by filtration to yield 132 mg of 1-(2-Hydroxy-2-methylpropyl)-2-{[methoxy(methyl)amino]methyl}-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, mp 220-222° C.

reactant | Triethylamine | 7.38 mmol, 1.03 mL, 0.747 g | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.92 mmol, 0.480 g | Cl.CNOC
reactant | 2-chloromethyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 2.46 mmol, 0.750 g | ClCC=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CC(C)(C)O | C15H17ClN4O
reactant | water | 100 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(2-Hydroxy-2-methylpropyl)-2-{[methoxy(methyl)amino]methyl}-1H-imidazo[4,5-c]quinolin-4-amine | 132 mg | OC(CN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CN(C)OC)(C)C | C17H23N5O2
